US07482336B2
Step D: Methyl 8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]decane-7-carboxylate
To a stirred solution of methyl 8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]dec-7-ene-7-carboxylate (1.93 g, 5.9 mmol) in methanol (50 mL) was added magnesium (1.43 g, 59 mmol), and the mixture was refluxed overnight under nitrogen atmosphere. The white precipitate that formed was filtered over Celite, and the filtrate was evaporated under reduced pressure to yield the title compound.

reactant | methyl 8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]dec-7-ene-7-carboxylate | 5.9 mmol, 1.93 g | FC1=C(C=C(C(=C1)F)F)C1=C(CC2(OCCO2)CC1)C(=O)OC | C16H15F3O4
reactant | magnesium | 59 mmol, 1.43 g | [Mg] | Mg
solvent | methanol | 50 mL | CO | CH4O
product | Methyl 8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]decane-7-carboxylate | FC1=C(C=C(C(=C1)F)F)C1C(CC2(OCCO2)CC1)C(=O)OC | C16H17F3O4
